US05068284
A mixture of 68.59 grams (0.5 mol) of tyramine (β-hydroxyphenylethylamine), 109.13 grams (0.5 mol) of di-t-butylcarbonate, 27.83 grams (0.275 mol) of triethylamine and 2700 ml of 80:20 t-butanol:deionized water solution was stirred for 16 hours at room temperature. The volume of the reaction mixture was reduced to 500-600 ml using a rotary evaporator. The viscous solution was extracted three times with 500 ml portions of chloroform. The chloroform extractions were combined, dried with anhydrous sodium sulfate, filtered and the chloroform was removed under reduced pressure. The product crystallized slowly to form a waxy solid and was recrystallized from acetonitrile. Based on method of preparation, there was obtained 116.13 grams (98% yield) of N-t-butoxycarbonyl tyramine (N-BOC-tyramine). The identity of the chainstopper was further confirmed by 1H NMR analysis.

reactant | tyramine | 0.5 mol, 68.59 grams | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | di-t-butylcarbonate | 0.5 mol, 109.13 grams | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | triethylamine | 0.275 mol, 27.83 grams | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 2700 ml | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | N-t-butoxycarbonyl tyramine | 116.13 grams, 98% yield | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)O | C13H19NO3
